US08314091B2
A: 4-Amino-2-chloro-3-fluorobenzoic Acid
4-Amino-2-chloro-3-fluorobenzonitrile (500 mg, 2.93 mmol) and sodium hydroxide (4M, 18 mL) were mixed with ethanol (8 mL) and heated to reflux for 18 hours. After this time the mixture was allowed to cool to room temperature and 1M hydrochloric acid was added until pH 1 was achieved. Ethyl acetate was added and the organic layer was separated and washed with water and brine. The organic phase was dried with sodium sulfate, filtered and concentrated under vacuum to give the title compound (500 mg),

reactant | 4-Amino-2-chloro-3-fluorobenzonitrile | 2.93 mmol, 500 mg | NC1=C(C(=C(C#N)C=C1)Cl)F | C7H4ClFN2
reactant | sodium hydroxide | 4M, 18 mL | [OH-].[Na+]
reactant | ethanol | 8 mL | C(C)O | C2H6O
reactant | hydrochloric acid | 1M | Cl | ClH
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-Amino-2-chloro-3-fluorobenzoic Acid | 500 mg | NC1=C(C(=C(C(=O)O)C=C1)Cl)F | C7H5ClFNO2
